US09120749B2
Ethyl 3-(4-bromophenylamino)-2-(methylsulfonyl)acrylate
A mixture of ethyl 2-(methylsulfonyl)acetate (1.9 g, 11.4 mmol), triethyl orthoformate (5.64 mL, 34.2 mmol), and acetic anhydride (5 mL) were heated at 130° C. for 5 h with a Dean Stark trap. The reaction was cooled, 4-bromoaniline (3.1 g, 18.0 mmol) was added and the reaction mixture was heated at 150° C. for 2 h. The reaction mixture was cooled, concentrated and the residue was purified by column chromatography to afford the desire product (1.08 g, 27% over 2 steps) as a tan solid: 1H NMR (300 MHz, CDCl3) δ 10.58 (d, J=13.5 Hz, 1H), 8.39 (d, J=13.7 Hz, 1H), 7.59-7.48 (m, 2H), 7.15-7.02 (m, 2H), 4.41 (q, 1=7.1 Hz, 2H), 3.19 (s, 3H), 1.43 (t, J=7.1 Hz, 3H).

reactant | ethyl 2-(methylsulfonyl)acetate | 11.4 mmol, 1.9 g | CS(=O)(=O)CC(=O)OCC | C5H10O4S
reactant | triethyl orthoformate | 34.2 mmol, 5.64 mL | C(OCC)(OCC)OCC | C7H16O3
reactant | acetic anhydride | 5 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-bromoaniline | 18.0 mmol, 3.1 g | BrC1=CC=C(N)C=C1 | C6H6BrN
product | Ethyl 3-(4-bromophenylamino)-2-(methylsulfonyl)acrylate | BrC1=CC=C(C=C1)NC=C(C(=O)OCC)S(=O)(=O)C | C12H14BrNO4S
